US08084614B2
To 3-bromo-4-chloro-benzoic acid (9.4 g, 40 mmol) in dry DCM (100 mL), was added DMF (0.5 mL) followed by addition of oxalyl chloride (22.5 mL, 55 mmol, 2M in DCM) slowly. The mixture was stirred for 1 hr, then concentrated to yield 3-bromo-4-chloro-benzoyl chloride as an off-white solid.

reactant | 3-bromo-4-chloro-benzoic acid | 40 mmol, 9.4 g | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 55 mmol, 2M, 22.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-chloro-benzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1Cl | C7H3BrCl2O
